US06777417B2
Synthesis of 5-Ethanesulfonyl-3-[1-{3-[3-(4-hydroxy-piperidin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
3-[3-(4-Hydroxy-piperidin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (58 mg, 0.2 mmol), prepared as described in Example 20, was condensed with 5-ethylsulfonyloxindole (69 mg, 0.2 mmol, 65%pure) following the procedure used in Example 1 to provide 31 mg of the desired compound.

reactant | 3-[3-(4-Hydroxy-piperidin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 0.2 mmol, 58 mg | OC1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O | C17H26N2O2
reactant | 5-ethylsulfonyloxindole | 0.2 mmol, 69 mg | C(C)S(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C10H11NO3S
product | 5-Ethanesulfonyl-3-[1-{3-[3-(4-hydroxy-piperidin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 31 mg | C(C)S(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC=2CCCCC2C1CCCN1CCC(CC1)O | C27H35N3O4S
